US05646173
A lithium diisopropylamide solution, freshly prepared from 4.25 ml of diisopropylamine and 18.7 ml of 1.6N n-butyllithium in hexane, in 60 ml of anhydrous tetrahydrofuran was added dropwise while stirring to a solution, cooled to -70°, of 3.24 g of 5-methoxy-1-indanone in 350 ml of anhydrous tetrahydrofuran. The mixture was stirred at this temperature for an additional 30 minutes and a solution of 1.6 ml of chloroacetone dissolved in 60 ml of anhydrous tetrahydrofuran was subsequently added dropwise over 15 minutes. The reaction mixture was left to come to room temperature over 100 minutes and was stirred at this temperature for an additional 45 minutes. Subsequently, the reaction mixture was poured on to 150 ml of ice, 150 ml of saturated sodium chloride were added and the organic phase was separated. The aqueous phase was extracted once with 400 ml of diethyl ether. The combined organic phases were washed once with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated in a vacuum. The red oil obtained was purified by column chromatography on silica gel (hexane/diethyl ether 3:7). There were obtained 1.67 g of crude product which was crystallized from diethyl ether/hexane. The crystallization gave 1.21 g (56%) of (RS)-5-methoxy-2-(2-oxopropyl)-1-indanone as a light yellow solid with m.p. 73°.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 4.25 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6N, 18.7 ml | C(CCC)[Li]
reactant | 5-methoxy-1-indanone | 3.24 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | chloroacetone | 1.6 ml | ClCC(C)=O | C3H5ClO
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (RS)-5-methoxy-2-(2-oxopropyl)-1-indanone | 1.21 g, 56% | COC=1C=C2CC(C(C2=CC1)=O)CC(C)=O | C13H14O3
